US07754737B2
A solution of (R)-3-((S)-1-hydroxy-5-methoxy-1-phenylpentyl)piperidine-1-carbonyl chloride (135 mg, 0.4 mmol) in CH2Cl2 (10 mL) was added to a solution of (S)-1-azido-3-phenylpropan-2-amine (156.3 mg, 0.73 mmol), triethylamine (0.6 mL, 4.3 mmol), and DMAP (16.6 mg, 0.13 mmol) in CH2Cl2. After stirring for 12 h, the reaction was taken up in CH2Cl2 (50 mL), washed with satd aq NaHCO3 (3×10 mL), and brine (3×10 mL), dried (Na2SO4), decanted, and stripped to afford (3R)—N—((S)-3-azido-1-phenylpropan-2-yl)-3-((S)-1-hydroxy-5-methoxy-1-phenylpentyl)piperidine-1-carboxamide (210.7 mg) as a brown residue (theoretical yield: 192.0 mg). MS ESI+ve m/z 502 (M+Na).

reactant | (R)-3-((S)-1-hydroxy-5-methoxy-1-phenylpentyl)piperidine-1-carbonyl chloride | 0.4 mmol, 135 mg | O[C@](CCCCOC)(C1=CC=CC=C1)[C@H]1CN(CCC1)C(=O)Cl | C18H26ClNO3
reactant | (S)-1-azido-3-phenylpropan-2-amine | 0.73 mmol, 156.3 mg | N(=[N+]=[N-])C[C@H](CC1=CC=CC=C1)N | C9H12N4
reactant | triethylamine | 4.3 mmol, 0.6 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.13 mmol, 16.6 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (3R)—N—((S)-3-azido-1-phenylpropan-2-yl)-3-((S)-1-hydroxy-5-methoxy-1-phenylpentyl)piperidine-1-carboxamide | 210.7 mg | N(=[N+]=[N-])C[C@H](CC1=CC=CC=C1)NC(=O)N1C[C@@H](CCC1)[C@@](CCCCOC)(C1=CC=CC=C1)O | C27H37N5O3
